US06127361
(3S,5R)-(+)-3-chloro-5-(methoxymethoxy)-1-(4-methoxyphenethyl)piperidine was coupled with 5,11-dihydrodibenzo[b,e][1,4]oxazepine as described in Example 1 to give (+)-5,11-dihydro-5-[[(2R,4R)-4-(methoxymethoxy)-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]dibenzo[b,e][1,4]oxazepine in 4.30 g (72.6%) yield as pale yellow oil.

reactant | (3S,5R)-(+)-3-chloro-5-(methoxymethoxy)-1-(4-methoxyphenethyl)piperidine | Cl[C@@H]1CN(C[C@@H](C1)OCOC)CCC1=CC=C(C=C1)OC | C16H24ClNO3
reactant | 5,11-dihydrodibenzo[b,e][1,4]oxazepine | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
product | (+)-5,11-dihydro-5-[[(2R,4R)-4-(methoxymethoxy)-1-(4-methoxyphenethyl)pyrrolidin-2-yl]methyl]dibenzo[b,e][1,4]oxazepine | COCO[C@@H]1C[C@@H](N(C1)CCC1=CC=C(C=C1)OC)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C29H34N2O4
